US08614010B2
Under an argon atmosphere, 400 mL of anhydrous THF were added to 24.7 g (100 mmol) of 2-bromodibenzofuran, and then 63 mL (100 mmol) of a solution of n-butyllithium in hexane having a concentration of 1.6 M were added to the mixture during the stirring of the mixture at −40° C. The reaction solution was stirred for 1 hour while being heated to 0° C. The reaction solution was cooled to −78° C. again, and then a solution of 26.0 g (250 mmol) of trimethyl borate in 50 mL of dry THF was dropped to the solution. The reaction solution was stirred at room temperature for 5 hours. 200 milliliters of 1N hydrochloric acid were added to the solution, and then the mixture was stirred for 1 hour. After that, the aqueous layer was removed. The organic layer was dried with magnesium sulfate, and then the solvent was removed by distillation under reduced pressure. The resultant solid was washed with toluene. Thus, 15.2 g of dibenzofuran-2-boronic acid were obtained (in 72% yield). The resultant was identified as Intermediate 2-4 by FD-MS analysis because a main peak having a ratio m/z of 212 was obtained with respect to C12H9BO3=212.

reactant | 2-bromodibenzofuran | 100 mmol, 24.7 g | BrC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H7BrO
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethyl borate | 250 mmol, 26.0 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1N, 200 milliliters | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | dibenzofuran-2-boronic acid | 15.2 g, 72% yield | C1=C(C=CC=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
